US07067658B2
Trifluoro-methanesulfonic acid 4-(2-chloro-4-dimethylamino-5-fluoro-phenyl)-3-nitro-pyridin-2-yl ester TFA (1.1 g, 2.49 mmol) and 2-methoxy-1-methyl-ethylamine HCl (208 mg, 1.7 mmol) were treated substantially as described in Part C of Example 19a to produce 318 mg of crude [4-(2-chloro-4-dimethylamino-5-fluoro-phenyl)-3-nitro-pyridin-2-yl]-(2-methoxy-1-methyl-ethyl)-amine.

reactant | Trifluoro-methanesulfonic acid 4-(2-chloro-4-dimethylamino-5-fluoro-phenyl)-3-nitro-pyridin-2-yl ester TFA | 2.49 mmol, 1.1 g | OC(=O)C(F)(F)F.ClC1=C(C=C(C(=C1)N(C)C)F)C1=C(C(=NC=C1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-]
reactant | 2-methoxy-1-methyl-ethylamine HCl | 1.7 mmol, 208 mg | Cl.COCC(C)N
product | [4-(2-chloro-4-dimethylamino-5-fluoro-phenyl)-3-nitro-pyridin-2-yl]-(2-methoxy-1-methyl-ethyl)-amine | 318 mg | ClC1=C(C=C(C(=C1)N(C)C)F)C1=C(C(=NC=C1)NC(COC)C)[N+](=O)[O-] | C17H20ClFN4O3
